US05508467
4-(2-hydroxyethylamino)-2-nitroanisole
A mixture of 168.2 g of 4-amino-2-nitroanisole, 42.8 g of calcium hydroxide and 5 g of tetraethylene glycol dimethylether in 1500 g of aqueous monoethylene glycol dimethylether is reacted in accordance with the instructions of Example 1 with 150 g of 2-chloroethyl chloroformate and, after separation of the phases, with 370.6 g of 50% strength potassium hydroxide. After working up analogously to Example 1, yellow-red crystals are obtained.

reactant | 4-amino-2-nitroanisole | 168.2 g | NC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H8N2O3
reactant | calcium hydroxide | 42.8 g | [OH-].[Ca+2].[OH-]
reactant | tetraethylene glycol dimethylether | 5 g | COCCOCCOCCOCCOC | C10H22O5
reactant | 2-chloroethyl chloroformate | 150 g | ClC(=O)OCCCl | C3H4Cl2O2
solvent | monoethylene glycol dimethylether | 1500 g | COCCOC | C4H10O2
product | 4-(2-hydroxyethylamino)-2-nitroanisole | OCCNC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C9H12N2O4
